US04656181
25 g (0.07 moles) of 2-(N-nicotinoylamino)ethyl 2-(3-nitrobenzylidene)acetylacetate and 7.51 g (0.07 moles) of methyl 3-aminocrotonate are heated under reflux in 70 ml of ethanol for 45 minutes. The solution is the cooled to room temperature to obtain 2-(N-nicotinoylamino)ethyl 2,6-dimethyl-5-methoxycarbonyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3-carboxylate as yellow crystals melting--after recrystallisation in ethanol--at 207°-209° C. The yield is 70% of the theoretical yield.

reactant | 2-(N-nicotinoylamino)ethyl 2-(3-nitrobenzylidene)acetylacetate | 0.07 moles, 25 g | [N+](=O)([O-])C=1C=C(C=CC(=O)CC(=O)OCCNC(C2=CN=CC=C2)=O)C=CC1 | C19H17N3O6
reactant | methyl 3-aminocrotonate | 0.07 moles, 7.51 g | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | ethanol | 70 ml | C(C)O | C2H6O
product | 2-(N-nicotinoylamino)ethyl 2,6-dimethyl-5-methoxycarbonyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3-carboxylate | yield is 70% | CC=1NC(=C(C(C1C(=O)OCCNC(C1=CN=CC=C1)=O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C24H24N4O7
